US05807859
The process is performed as in Example 3 but starting with 6.9 g of 10-(3-carboxybenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 50 ml of methanol, 250 ml of dimethylformamide and 0.7 g of 10% palladium-on-charcoal. After evaporation of the solvents and trituration of the solid obtained with 100 ml of methanol, 5.1 g of 10-(3-carboxybenzyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are obtained in the form of an off-white solid melting above 260° C., which product is converted into the sodium salt of formula C21 H14N3O3Na (Analysis, % calculated C 66.49, H: 3.72, N: 11.08, O: 12.65, Na : 6.06, % found C: 66.6, H: 3.7, N: 10.9).

reactant | 10-(3-carboxybenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 6.9 g | C(=O)(O)C=1C=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC1 | C21H13N3O3
reactant | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.7 g | [Pd] | Pd
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 10-(3-carboxybenzyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 5.1 g | C(=O)(O)C=1C=C(CC2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC1 | C21H15N3O3
